US08222248B2
To a solution of 2-(2,6-dimethylphenyl)-3H-benzoimidazole-5-carbaldehyde as an oil (590 mg) and Boc2O (515 mg) in THF (5 mL) was added DMAP (25 mg) and the mixture was stirred at ambient temperature for 18 h. The solvent was removed under reduced pressure and the residue was purified by flash chromatography using 10% EtOAc/methylene chloride as eluent to give 2-(2,6-dimethylphenyl)-6-formyl-benzoimidazole-1-carboxylic acid tert-butyl ester as an oil.

reactant | 2-(2,6-dimethylphenyl)-3H-benzoimidazole-5-carbaldehyde | 590 mg | CC1=C(C(=CC=C1)C)C=1NC2=C(N1)C=CC(=C2)C=O | C16H14N2O
reactant | Boc2O | 515 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(2,6-dimethylphenyl)-6-formyl-benzoimidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2)C=O)C2=C(C=CC=C2C)C | C21H22N2O3
